US09447078B2
A solution of oxalyl chloride (1.4 mL, 16.1 mmol) in anhydrous CH2Cl2 (10 mL) was added dropwise to a solution of 4-bromothiophene-2-carboxylic acid (3.08 g, 14.9 mmol) and DMF (0.2 mL) in anhydrous CH2Cl2 (40 mL) over 30 mins. The reaction mixture was stirred at room temperature for 35 min then concentrated under reduced pressure. CH2Cl2 (30 mL) was added to the residue followed by cyclohexylmethanol (1.9 mL, 15.44 mmol) and Et3N (2.5 mL, 17.94 mmol). The reaction mixture was stirred at room temperature overnight and partitioned between EtOAc and aqueous 25% NH4Cl. Organic layer was washed with brine, concentrated under reduced pressure and purified by flash chromatography (2%-20% EtOAc—hexanes gradient) to give cyclohexylmethyl 4-bromothiophene-2-carboxylate as a colorless oil which was directly used in the next step. Yield (3.61 g, 80%).

reactant | oxalyl chloride | 16.1 mmol, 1.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromothiophene-2-carboxylic acid | 14.9 mmol, 3.08 g | BrC=1C=C(SC1)C(=O)O | C5H3BrO2S
reactant | cyclohexylmethanol | 15.44 mmol, 1.9 mL | C1(CCCCC1)CO | C7H14O
reactant | Et3N | 17.94 mmol, 2.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | cyclohexylmethyl 4-bromothiophene-2-carboxylate | BrC=1C=C(SC1)C(=O)OCC1CCCCC1 | C12H15BrO2S
